US07365069B2
N-(4-Methylphenyl)pyridine-4-carboximidamide
The title compound was prepared from 4-cyanopyridine (9.72 g, 93 mmol) and 4-methylaniline (10 g, 93 mmol) by following the procedure described in preparation 10 (14.3 g, yield 72.5%, mp 120-123° C., purity 98.75% by HPLC). 1H-NMR (CDCl3):δ 2.33 (s, 3H), 5.06 (bs, 2H, D2O exchangeable), 6.84-6.86 (d, 2H), 7.16-7.18 (d, 2H), 7.71-7.72 (d, 2H), 8.66-8.67 (d, 2H). IR (KBr) cm−1: 3437, 3138, 1644. MS m/z:212.1 (M+).

reactant | 4-cyanopyridine | 93 mmol, 9.72 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 4-methylaniline | 93 mmol, 10 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | KBr | [K+].[Br-]
product | N-(4-Methylphenyl)pyridine-4-carboximidamide | yield 72.5% | CC1=CC=C(C=C1)NC(=N)C1=CC=NC=C1 | C13H13N3
